US06713479B2
Synthesis of 1-{1-[1-(4-Choro-phenyl)-cyclopropylmethyl]-piperidin-3ylmethyl}-4-(2-methoxy-phenyl)-piperazine
To a solution of methanesulfonic acid 1-[1-(4-chloro-phenyl)-cyclopropylmethyl]-piperidin-3-ylmethyl ester (2.94 g, 8.20 mmol) in acetonitrile (40.0 mL) at room temperature was added 1-(2-methoxy-phenyl)-piperazine (1.58 g, 8.20 mmol) followed by potassium carbonate (13.35 g, 41.0 mmol). The reaction mixture was refluxed overnight. After cooling down to room temperature the reaction mixture was diluted with water and extracted with EtOAc (3×50 mL). The combined organic layers were dried over sodium sulfate and concentrated to yield a crude oil. The resulting residue was purified by silica gel chromatography (96:4 DCM: 2M NH3 in EtOH) to obtain the desired compound as an oil (2.04 g). 13C NMR (100 MHz, CDCl3) δ152.5, 143.9, 141.8, 131.5, 130.4, 128.2, 123.1, 121.3, 118.4, 111.5, 67.8, 63.0, 59.5, 55.6, 55.2, 54.2, 51.0, 33.5, 29.8, 25.2, 23.1, 13.4, 13.1.

reactant | methanesulfonic acid 1-[1-(4-chloro-phenyl)-cyclopropylmethyl]-piperidin-3-ylmethyl ester | 8.20 mmol, 2.94 g | ClC1=CC=C(C=C1)C1(CC1)CN1CC(CCC1)COS(=O)(=O)C | C17H24ClNO3S
reactant | 1-(2-methoxy-phenyl)-piperazine | 8.20 mmol, 1.58 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 41.0 mmol, 13.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40.0 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-{1-[1-(4-Choro-phenyl)-cyclopropylmethyl]-piperidin-3ylmethyl}-4-(2-methoxy-phenyl)-piperazine | 2.04 g | ClC1=CC=C(C=C1)C1(CC1)CN1CC(CCC1)CN1CCN(CC1)C1=C(C=CC=C1)OC | C27H36ClN3O
